US06660752B2
In a 30 L reaction vessel, N-benzyl[(2R)-3,4-dihydro-2H-chromen-2-yl]methanamine hydrobromide (2173 g, 6.5 moles, 1.0 eq.) was suspended in 11.4 L formic acid. The suspension was cooled to 16° C., then bromine (1071 g, 6.7 moles, 1.03 eq.) was added over a 60 minutes, maintaining the reaction temperature between 15 and 16° C. After 70 minutes, a HPLC probe indicated the reaction to be complete. To the reaction mixture was then added 15.6 L water (temperature increased to 21° C.). The light reaction mixture was then stirred for 30 minutes at room temperature, then the product was filtered and washed with 3.9 L water. The 3.14 kg of light gray moist product was then suspended in 9.75 L dichloromethane. To this suspension was added 13 L 1M NaHCO3. Foaming ensued and the suspension became a bi-phasic solution. The aqueous phase was separated (14.5 L; pH=8) and the organic phase was washed with 6.5 L water. The phases were separated and the organic phase evaporated at 45° C. to yield 1820 g of N-benzyl-N-{[(2R)-6-bromo-3,4-dihydro-2H-chromen-2-yl]methyl}amine.

reactant | N-benzyl[(2R)-3,4-dihydro-2H-chromen-2-yl]methanamine hydrobromide | 6.5 moles, 2173 g, 1.0 eq. | Br.C(C1=CC=CC=C1)NC[C@@H]1OC2=CC=CC=C2CC1
reactant | bromine | 6.7 moles, 1071 g, 1.03 eq. | BrBr | Br2
reactant | water | 15.6 L | O | H2O
solvent | formic acid | 11.4 L | C(=O)O | CH2O2
product | N-benzyl-N-{[(2R)-6-bromo-3,4-dihydro-2H-chromen-2-yl]methyl}amine | 1820 g | C(C1=CC=CC=C1)NC[C@@H]1OC2=CC=C(C=C2CC1)Br | C17H18BrNO
